US07087601B2
A slurry of NaCN (435 mg, 8.9 mmol), 2-[4-(bromomethyl)-3-chlorophenyl]-1,3-benzoxazole (940 mg, 2.9 mmol), DMF (30 mL) and H2O (30 mL) was stirred at rt for 12 h. The reaction mixture was poured into brine (250 mL) and filtered. The resultant colorless solid was purified by flash chromatography on silica gel (EtOAc:hexanes 1:9) to afford the desired [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 8.32 (s, 1H), 8.19 (dd, 1H), 7.77–7.80 (m, 1H), 7.70 (d, 1H), 7.59–7.61 (m, 1H), 7.38–7.41 (m, 2H), 3.92 (s, 2H). MS (ESI) 269 (M+H)+.

reactant | NaCN | 8.9 mmol, 435 mg | [C-]#N.[Na+]
reactant | 2-[4-(bromomethyl)-3-chlorophenyl]-1,3-benzoxazole | 2.9 mmol, 940 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)Cl | C14H9BrClNO
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | H2O | 30 mL | O | H2O
solvent | brine | 250 mL | [Cl-].[Na+].O
product | [4-(1,3-benzoxazol-2-yl)-2-chlorophenyl]acetonitrile | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)Cl | C15H9ClN2O
